US08242153B2
To (S)-4-[2-(4-fluoro-phenylsulfanyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.5 g) was added under an argon atmosphere 5.5 M HCl solution in ethanol (2 ml). The mixture was stirred for 16 h. The mixture was concentrated. The residue was dissolved in dichloromethane and an excess of ammonia in methanol and some silica gel was added. The solvents were evaporated and the crude product was purified by column chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: dichloromethane/methanol=90:10) to give (S)-2-amino-4-(4-fluoro-phenylsulfanyl)-butan-1-ol (0.25 g) as a colourless liquid. MS (ISP): 216.3 ([M+H]+).

reactant | (S)-4-[2-(4-fluoro-phenylsulfanyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCSC1=CC=C(C=C1)F)(C)C | C18H26FNO3S
reactant | HCl | 5.5 M | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (S)-2-amino-4-(4-fluoro-phenylsulfanyl)-butan-1-ol | 0.25 g | N[C@H](CO)CCSC1=CC=C(C=C1)F | C10H14FNOS
